US08222248B2
To a solution of 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoroacetyl)-benzoimidazole-1-carboxylic acid tert-butyl ester (617 mg) and 3,4-dimethylaniline (118 mg) in toluene (10 mL) was added 4 Å molecular sieves and pTos-OH (50 mg) then the mixture was stirred at 120° C. for 18 h. The sieves were filtered and the filtrate evaporated under reduced pressure to give 1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoro-ethanone as an oil.

reactant | 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoroacetyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 617 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C(C(F)(F)F)=O)C2=C(C=CC=C2C)C | C22H21F3N2O3
reactant | 3,4-dimethylaniline | 118 mg | CC=1C=C(N)C=CC1C | C8H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoro-ethanone | CC1=C(C(=CC=C1)C)C=1NC2=C(N1)C=CC(=C2)C(C(F)(F)F)=O | C17H13F3N2O
